US05072027
In a 3000-liter reactor equipped with a stirrer, a thermometer, an air introducing pipe, a distillation column and a reflux condenser, 776 kg (4 kmoles) of dicyclopentenyloxyethyl alcohol, and 1200 kg (12 kmoles) of methyl methacrylate were placed and mixed well with stirring. The water content of the resulting mixture was 800 ppm. The water content was measured by using a Karl Fischer type digital microamount water content measuring device (mfd. by Mitsubishi Chemical Industries Ltd.). Subsequently, 3 kg of anhydrous lithium hydroxide as a catalyst and 390 g of hydroquinone monomethyl ether as a polymerization inhibitor were added to the reactor, and the reaction was carried out while introducing dried air at a rate of 4 m3/ hr and refluxing the methyl methacrylate through the distillation column. While removing methanol by-produced by the reaction from the distillation column, the reaction was continued until almost no methanol was distilled (about 8 hours), followed by removal of unreacted methyl methacrylate under reduced pressure. After cooling, the reaction solution was filtered under pressure (5 kg/cm2) using a filter paper (pore size 0.1 mm, area 5 m2) placing thereon 10 kg of diatomaceous earth to yield 943 kg of dicyclopentenyloxyethyl methacrylate. The filtering time was 2.5 hours.

reactant | dicyclopentenyloxyethyl alcohol | 4 kmoles, 776 kg | C1(=CCCC1)OC(CO)OC1=CCCC1 | C12H18O3
reactant | methyl methacrylate | 12 kmoles, 1200 kg | C(C(=C)C)(=O)OC | C5H8O2
reactant | water | O | H2O
catalyst | lithium hydroxide | 3 kg | [OH-].[Li+]
catalyst | hydroquinone monomethyl ether | 390 g | COC1=CC=C(O)C=C1 | C7H8O2
solvent | methanol | CO | CH4O
product | dicyclopentenyloxyethyl methacrylate | 943 kg | C(C(=C)C)(=O)OCC(OC1=CCCC1)OC1=CCCC1 | C16H22O4
